data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CC1CCCN1C(=O)C2=CC=CN2)I3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC3CCCN3C(=O)C4=CC=CN4)OC(=O)C 10=20;20,21=21
CC[CH+:20]OC.[Br-:10]>>CC[CH:20](OC)[Br:10] 10=20,
[B-:10]([OH+:11]C(CC1CC(=C)CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F.CC[O-].CC[O+](CC)[Si](C)(C)C>>[B:10](F)(F)F.CC1CCC(OC1CC(CC2CC(=C)CC(O2)CCO[Si](C(C)C)(C(C)C)C(C)C)[OH:11])CCOCC3=CC=CC=C3.CC[O-].CC[O+](CC)[Si](C)(C)C 10,11=11
CC(=[O+:11][Si-:10](C)(C)(C)OC(=O)C)O>>CC(=[O:11])O.CC(=O)O[Si:10](C)(C)C 10,11=11
C1=CC2=CC=CC(=C2C=C1)[NH2:10].C([C:20](=[O:21])Cl)Cl.CCN(CC)CC>>C1=CC2=CC=CC(=C2C=C1)[NH2+:10][C:20](CCl)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
[H:20][O+:21](CC)C(C)(N(CC)CC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCN(CC)C(C)(O)[O:21]CC 10=20;20,21=21
C[C+:20]=C.[OH2:10]>>C[C:20](=C)[OH2+:10] 10=20,
COC=[NH:10].Cl[Cu:20]Cl>>COC=[NH+:10][Cu-:20](Cl)Cl 10=20,
[H:20][OH:21].CC1(C(C(N1CC2=CC=CC=C2)(C)C)(C(=O)O)[O-:10])C>>[H:20][O:10]C1(C(N(C1(C)C)CC2=CC=CC=C2)(C)C)C(=O)O.[OH-:21] 10=20;20,21=21
[H:20][OH:21].C[Si](C)(C)[O-:10]>>[H:20][O:10][Si](C)(C)C.[OH-:21] 10=20;20,21=21
CC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>CC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[B-:10](O)([O:11]C1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O>>[B:10](O)(Br)Br.CCN1CCC23C4C(=O)CCC2(C1CC5=C3C(=C(C=C5)[O-:11])O4)O.CBr.O 10,11=11
[H:20][N+:21](=COP(=O)(Cl)Cl)C.[Cl-:10]>>[H:20][Cl:10].C[N:21]=COP(=O)(Cl)Cl 10=20;20,21=21
CCC1=NC(C(=O)O1)(CC2CCCCC2)[C:20](CC)([O-:10])[O:21]C(=O)CC.C1=CC=[NH+]C=C1>>CCC1=NC(C(=O)O1)(CC2CCCCC2)[C:20](=[O:10])CC.CCC(=O)[O-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][CH:21](C)[C+:22](C)C.CC[OH:10]>>[H:20][OH+:10]CC.C[CH:21]=[C:22](C)C 10=20;20,21=21,22
CO[C:20]1([NH2+:21]CCCO1)[OH:10]>>CO[C:20](=[OH+:10])OCCC[NH2:21] 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1O)Br)Br)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.C1=C(C=C([C:22](=[C:21]1Br)O)Br)Br 10=20;20,21=21,22
[H:20][C:21]1(CC2=CC(=C(C=C2C([C:22]1=[N+:23]3CCCC3)C[CH:10]=[CH:11][O-:12])OC)C)C>>[H:20][CH:10](CC1C2=CC(=C(C=C2C[C:21](=[C:22]1[N:23]3CCCC3)C)C)OC)[CH:11]=[O:12] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O+:21]=C1CCC(CC1)C=O.CC(=O)[O-:10].CO.C(CO)O.O>>[H:20][O:10]C(=O)C.C1CC(=[O:21])CCC1C=O.CO.C(CO)O.O 10=20;20,21=21
[H:20][C:21](C1=CC=CO1)([C:22]2=[N+:23](N=C3N2C(CC3F)C(C)C)C4=C(C(=C(C(=C4F)F)F)F)F)O.CC[N:10](C(C)C)C(C)C.[B-](F)(F)(F)F.CCOC(=O)C(=O)C=CC1=CC=CC=C1>>[H:20][N+:10](CC)(C(C)C)C(C)C.CC(C)C1CC(C2=N[N:23]([C:22](=[C:21](C3=CC=CO3)O)N12)C4=C(C(=C(C(=C4F)F)F)F)F)F.[B-](F)(F)(F)F.CCOC(=O)C(=O)C=CC1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C(CC(=O)[O-:10])C=O>>[H:20][O:10]C(=O)CCC=O.[OH2:21] 10=20;20,21=21
C[C:20](C)([Cl:21])[Br:10]>>C[C:20](=[Br+:10])C.[Cl-:21] 10=20;20,21=21
CCCC[N+](CCCC)(CCCC)CCCC.O=C(C)[O-].[CH3:8][O:9][C:10]1=[CH:11][CH:12]=[C:13]([CH:20]=[CH:21]1)[C+:14]=[C:15]([C:17](=[O:19])[O-:18])[I:16].[CH2:3]1[CH2:4][C:6](=[O:7])[NH:5][C:2]1=[O:1]>>CCCC[N+](CCCC)(CCCC)CCCC.O=C(C)[O-].[CH3:8][O:9][C:10]1=[CH:11][CH:12]=[C:13]([CH:20]=[CH:21]1)[C:14]#[C:15][I:16].[CH2:3]1[CH2:4][C:6](=[O:7])[NH:5][C:2]1=[O:1].[C:17](=[O:18])=[O:19] 18=17;17,15=15,14
[CH2:20]=[C:21]1C2=C(C=CC=C2)C3=CC=CC=C13.C1CC[NH:10]CC1.C1=C(C=C(C(=C1)NC(=O)CNC(=O)O)I)Cl>>C1CC[NH+:10](CC1)[CH2:20][C-:21]2C3=C(C=CC=C3)C4=CC=CC=C24.C1=C(C=C(C(=C1)NC(=O)CNC(=O)O)I)Cl 10=20;20,21=21
CCCO[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCO[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:20][OH:21].[B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[O:10]C(CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)C(=C)C=C.[Na+]>>[H:20][O+:10]([B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O)C(CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)C(=C)C=C.[OH-:21].[Na+] 10=20;20,21=21
[H:20][N+:21]1(C(=CCC1(C)O)C2=CC=C(C=C2)S(=O)(=O)C)C3=CC=C(C=C3)F.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1(CC=C([N:21]1C2=CC=C(C=C2)F)C3=CC=C(C=C3)S(=O)(=O)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC1=CCC([CH+:20]CC1)(C)CC[CH:10]=[C:11](C)C.O.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-]>>CC1=CCC2(CC[CH:10]([CH:20]2CC1)[C+:11](C)C)C.O.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-] 10,11=10,20
[C:20](=[NH2+:21])(O)O.[OH2:10]>>[C:20]([NH2:21])([OH2+:10])(O)O 10=20;20,21=21
CC1=C(C=C(C(=C1)OCC(=O)O[C:20](C)([O-:10])[O:21]C(=O)C)C(=O)C)OC.CC(=O)O.[Na+]>>CC1=C(C=C(C(=C1)OCC(=O)O[C:20](=[O:10])C)C(=O)C)OC.CC(=O)[O-:21].CC(=O)O.[Na+] 10=20;20,21=21
[H:20][Cl:21].C1CCC(C(C1)Cl)([N:10]2CCCC2)O>>[H:20][N+:10]1(CCCC1)C2(CCCCC2Cl)O.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=C[CH2:10][Mg:11]Br>>[H:20][CH2:10]C=C.OS(=O)(=O)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)CC)C(C)C.[F-:10]>>[H:20][F:10].CCC(=O)O[C:24]1=[CH:23][CH:22]=[C:21](C=C1)C(C)C 10=20;20,21=21,22;22,23=23,24
C=CC[OH:10].C1=CC=C(C=C1)C[C:20](=[O:21])Cl.CCN(CC)CC>>C=CC[OH+:10][C:20](CC1=CC=CC=C1)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
